US04656298
A solution of 6.0 g of ethyl 3-amino-2-methylpropyl(diethoxymethyl)phosphinate in 30 ml of 36% aqueous hydrochloric acid is heated to reflux for a period of 7 hours. The reaction mixture is then allowed to cool to room temperature, concentrated under reduced pressure and co-evaporated twice with 10 ml of water under reduced pressure. The crude product is dissolved in 50 ml of dry ethanol and 5 ml of propylene oxide is added dropwise. The precipitated solid is collected by filtration and dried to give 3-amino-2-methylpropylphosphonous acid monohydrate, m.p. 96°-100° C., 31P=+25.8 ppm (D2O).

reactant | ethyl 3-amino-2-methylpropyl(diethoxymethyl)phosphinate | 6.0 g | NCC(CP(OCC)(=O)C(OCC)OCC)C | C11H26NO4P
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 3-amino-2-methylpropylphosphonous acid monohydrate | O.NCC(CP(O)O)C | InChI=1S/C4H12NO2P.H2O/c1-4(2-5)3-8(6)7;/h4,6-7H,2-3,5H2,1H3;1H2
